US07968552B2
In an atmosphere of nitrogen, n-butyl lithium (a hexane solution) was added at −75° C. to a THF solution of (4-bromo-3-methoxyphenoxy)(tert-butyl)dimethylsilane, followed by stirring at −75° C. for 1 hour. Triisopropyl borate was added to the reaction mixture, followed by stirring at room temperature for 30 minutes. The reaction mixture was treated with hydrochloric acid to obtain (4-{[tert-butyl(dimethyl)silyl]oxy}-2-methoxyphenyl)boronic acid.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | (4-bromo-3-methoxyphenoxy)(tert-butyl)dimethylsilane | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)OC | C13H21BrO2Si
reactant | Triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (4-{[tert-butyl(dimethyl)silyl]oxy}-2-methoxyphenyl)boronic acid | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=C1)B(O)O)OC | C13H23BO4Si
